US06329389B1
7-(4-Bipenylyl)methoxy-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline hydrochloride
Diethylazodicarboxylic acid (348 mg) was added dropwise to a THF solution (20 ml) of 3-(dimethylamino)methyl-1,2,3,4-tetrahydro-7-quinolinol (344 mg), 4-biphenylylmethanol (368 mg), and triphenylphosphine (525 mg). The reaction mixture was stirred at room temperature for one hour, which was poured into 1N hydrochloric acid and washed with ethyl acetate. The aqueous layer was neutralized with 1N aqueous sodium hydroxide solution, to which was added a saturated aqueous sodium bicarbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1/4), converted into its hydrochloride, and then recrystallized from ethanol-IPE to give the entitled compound (214 mg).

reactant | 3-(dimethylamino)methyl-1,2,3,4-tetrahydro-7-quinolinol | 344 mg | CN(C)CC1CNC2=CC(=CC=C2C1)O | C12H18N2O
reactant | 4-biphenylylmethanol | 368 mg | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
reactant | triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7-(4-Bipenylyl)methoxy-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline hydrochloride | 214 mg | Cl.C1(=CC=C(C=C1)COC1=CC=C2CC(CNC2=C1)CN(C)C)C1=CC=CC=C1 | InChI=1S/C25H28N2O.ClH/c1-27(2)17-20-14-23-12-13-24(15-25(23)26-16-20)28-18-19-8-10-22(11-9-19)21-6-4-3-5-7-21;/h3-13,15,20,26H,14,16-18H2,1-2H3;1H
